US04112111
1-(5-Chloroindolin-1-yl)-3-cyclopropylguanidine
12 g of 1-(5-chloroindolin-1-yl)-2-methylisothiourea hydrochloride in 60 ml of methanol were heated for 5 hours at 100° with 15 ml of cyclopropylamine. The reaction mixture was concentrated to dryness. The residue was partitioned between ethyl acetate and dilute aqueous sodium hydroxide. The ethyl acetate phase was concentrated, and dried over magnesium sulphate to give the title compound. M.Pt. 146° - 149° (on recrystallization from ethyl acetate).

reactant | 1-(5-chloroindolin-1-yl)-2-methylisothiourea hydrochloride | 12 g | Cl.ClC=1C=C2CCN(C2=CC1)NC(SC)=N
reactant | cyclopropylamine | 15 ml | C1(CC1)N | C3H7N
solvent | methanol | 60 ml | CO | CH4O
product | 1-(5-Chloroindolin-1-yl)-3-cyclopropylguanidine | ClC=1C=C2CCN(C2=CC1)NC(=N)NC1CC1 | C12H15ClN4
